US07186749B2
Step 2: 5-({[6-(1-Benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H-tetraazole.
In a similar manner as described in step 2 of Example 3, the title compound was prepared from {[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile (0.20 g, 48 mmol), prepared in the previous step, ammonium chloride (0.077 g, 1.44 mmol) and sodium azide (0.094 g, 1.44 mmol) in DMF (10 mL). The solids were isolated by vacuum filtration and dissolved in methylene chloride. The organic solution was dried (MgSO4), filtered and the solvent removed under reduced pressure to give 5-({[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H -tetraazole as an amorphous beige solid (0.203 g, 92%), mp 190–200° C. (dec). Elemental Analysis for C29H23N5O.0.49 H2O.0.21 C3H7NO Calc'd: C, 73.90; H, 5.32; N, 15.15. Found: C, 73.05, H, 5.25; N, 15.03.

reactant | {[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}acetonitrile | 48 mmol, 0.20 g | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC#N | C29H22N2O
reactant | ammonium chloride | 1.44 mmol, 0.077 g | [Cl-].[NH4+]
reactant | sodium azide | 1.44 mmol, 0.094 g | [N-]=[N+]=[N-].[Na+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-({[6-(1-benzyl-5-phenyl-1H-pyrrol-2-yl)-2-naphthyl]oxy}methyl)-1H -tetraazole | 0.203 g, 92% | C(C1=CC=CC=C1)N1C(=CC=C1C1=CC=CC=C1)C=1C=C2C=CC(=CC2=CC1)OCC1=NN=NN1 | C29H23N5O
